US07344702B2
Synthesis of 1-tert-butyldimethylsilyloxy-2-hydroxy-2-(4-tertbutylphenyl) ethane
(4-tert-butylphenyl) ethane 1,2 diol (0.5 g, 2.57 mmol) is dissolved in DMF in a 25 ml round bottom flask and to this were added imidazole (0.210 g, 3.09 mmol) and tert-butyldimethylsilyl chloride (0.46 g, 3.09 mmol). The mixture is stirred for 6 hours after which it is extracted in dichloromethane and the organic layer washed with water and dried. Purification by flash chromatography (silica gel; ethyl acetate/hexanes) affords the above mentioned product.

reactant | (4-tert-butylphenyl) ethane 1,2 diol | 2.57 mmol, 0.5 g | C(C)(C)(C)C1=CC=C(C=C1)C(CO)O | C12H18O2
reactant | imidazole | 3.09 mmol, 0.210 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 3.09 mmol, 0.46 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-tert-butyldimethylsilyloxy-2-hydroxy-2-(4-tertbutylphenyl) ethane | [Si](C)(C)(C(C)(C)C)OCC(C1=CC=C(C=C1)C(C)(C)C)O | C18H32O2Si
